US08791161B2
4-chloro-N-[5-chloro-2-(ethylthio)phenyl]-3-(trifluoromethyl)benzenesulfonamide
To a solution of N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis[4-chloro-3-(trifluoromethyl)benzenesulfonamide] Intermediate 5 (0.32 g, 0.40 mmol) in CH2Cl2 (10 ml) was added saturated aqueous NaHCO3 (1.0 ml), polymer-bound triphenylphosphine (˜3 mmol/g triphenylphosphine loading, 0.27 g, 0.80 mmol), and ethyl iodide (64 μl, 0.80 mmol). The reaction was stirred at room temperature for 2 h and was diluted with EtOAc, filtered, and washed with brine, dried over Na2SO4, and concentrated. The residue was purified by column chromatography on silica gel (0→25% ethyl acetate in hexane) to yield the title compound as a yellow syrup (204 mg, 59%).

reactant | N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis[4-chloro-3-(trifluoromethyl)benzenesulfonamide] | ClC=1C=CC(=C(C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)SSC1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C26H14Cl4F6N2O4S4
reactant | NaHCO3 | 1.0 ml | C(=O)(O)[O-].[Na+]
reactant | triphenylphosphine | 0.80 mmol, 0.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl iodide | 0.80 mmol, 64 μl | C(C)I | C2H5I
reactant | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-chloro-N-[5-chloro-2-(ethylthio)phenyl]-3-(trifluoromethyl)benzenesulfonamide | 204 mg, 59% | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)Cl)SCC)C(F)(F)F | C15H12Cl2F3NO2S2
